US04138581
Using a procedure similar to that described above in Example 58A, 26 g. of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride was reacted with 16 g. of sodium methoxide in 300 ml. of N,N-dimethylformamide under an atmosphere of nitrogen and then 17 g. of p-anisoyl chloride was added to produce 3-hydroxy-4-(p-anisoyloxy)phenyl tert-butylaminomethyl ketone hydrochloride. This salt was converted to the free base which was treated with acetic acid to yield 35 g. of the acetate salt, m.p. 170°-175° C.(dec.)(uncorr.). By treating this salt in N,N-dimethylformamide with concentrated hydrochloric acid there was obtained 28 g. of the hydrochloride salt, m.p. >235° C.(dec.)(uncorr.). When this hydrochloride is catalytically hydrogenated, using a procedure similar to that described above in Example 30B, there is obtained 3-hydroxy-4-(p-anisoyloxy)-alpha-(tert-butylaminomethyl)benzyl alcohol hydrochloride.

reactant | 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | sodium methoxide | C[O-].[Na+]
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-hydroxy-4-(p-anisoyloxy)phenyl tert-butylaminomethyl ketone hydrochloride | Cl.C(C)(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=CC=C(C=C1)OC)=O)O | InChI=1S/C20H23NO5.ClH/c1-20(2,3)21-12-17(23)14-7-10-18(16(22)11-14)26-19(24)13-5-8-15(25-4)9-6-13;/h5-11,21-22H,12H2,1-4H3;1H
